US05055458
6-Chloro-9-[3-(diethoxyphosphorylmethoxy)propoxy]purine (0.75 g, 1.98 mmol) was dissolved in ethanolic ammonia (20 ml) and heated at 110° C. in an autoclave for 7.5 h then cooled for 13 h. The reaction was then evaporated to dryness under reduced pressure and chromatographed in chloroform/methanol (30:1) to give 9-[3-(diethoxyphosphorylmethoxy)propoxy]adenine (270 mg, 38%) as a white solid; νmax (KBr) 3378, 3335, 3186, 1660, 1598, 1230, 1019 cm-1 ; δH [(CD3)2SO] 1.22(6H, t, J7 Hz, (CH3CH2O)2), 1.94(2H, m, CH2CH2CH2), 3.74(2H, t, J6 Hz, CH2OCH2P), 3.83(2H, d, J8.3 Hz, CH2P), 4.04(4H, m, (CH3CH2O)2), 4.42(2H, t, NOCH2), 7.37(2H, br.s, D2O exchangeable, NH2), 8.14 and 8.42(2H, 2s, H-2 and H-8); Found: C, 43.63; H, 6.15; N, 19.78%; M+ 359.1350; C13H22N5O5P requires: C, 43.45; H, 6.17; N, 19.49%; M+ 359.1359.

reactant | 6-Chloro-9-[3-(diethoxyphosphorylmethoxy)propoxy]purine | 1.98 mmol, 0.75 g | ClC1=C2N=CN(C2=NC=N1)OCCCOCP(=O)(OCC)OCC | C13H20ClN4O5P
reactant | ammonia | 20 ml | N | H3N
product | 9-[3-(diethoxyphosphorylmethoxy)propoxy]adenine | 270 mg, 38% | C(C)OP(=O)(OCC)COCCCON1C2=NC=NC(=C2N=C1)N | C13H22N5O5P
